US03944560
Step B.--Preparation of 3-tert-butylaminomethyl-3-hydroxy-6-methoxy-3,4-dihydro-2H-1,5-benzodioxepin:
A suspension of 6-methoxy-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane (520 mg.; 2.5 mmole) in a mixture of tert-butylamine (548 mg.; 7.5 mmole) and methanol (4 ml.) is stirred at room temperature for 16 hours, by which time the solid dissolves, and reaction is complete as shown by thin layer chromatography (TLC). Evaporation of the solution yields 726 mg. of product in the form of an oil. A solution of the crude amine (698.5 mg.; 2.48 mmole) in ethyl acetate (7 ml.) is added to a hot solution of maleic acid (290 mg.; 2.5 mmole) in ethyl acetate (4 ml.). After allowing the mixture to stand for an hour at room temperature, the product is collected, washed with ethyl acetate and dried at 60°C. in air yielding 909 mg. (91.6%) of 3-tert-butylaminomethyl-3-hydroxy-6-methoxy-3,4-dihydro-2H-1,5-benzodioxepin hydrogen maleate, m.p. 188°-190.5°C. (dec.) after softening at ca. 184° C. Recrystallization from ethanol (16 ml.) provides 686 mg. (69.1%) of product, m.p. 193°-195° C. (dec.).

reactant | 6-methoxy-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane | 2.5 mmole, 520 mg | COC1=CC=CC=2OCC3(OC3)COC21 | C11H12O4
reactant | tert-butylamine | 7.5 mmole, 548 mg | C(C)(C)(C)N | C4H11N
reactant | maleic acid | 2.5 mmole, 290 mg | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | 3-tert-butylaminomethyl-3-hydroxy-6-methoxy-3,4-dihydro-2H-1,5-benzodioxepin hydrogen maleate | C(\C=C/C(=O)O)(=O)O.C(C)(C)(C)NCC1(COC2=C(OC1)C=CC=C2OC)O
solvent | methanol | 4 ml | CO | CH4O
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 3-tert-butylaminomethyl-3-hydroxy-6-methoxy-3,4-dihydro-2H-1,5-benzodioxepin | C(C)(C)(C)NCC1(COC2=C(OC1)C=CC=C2OC)O | C15H23NO4
